* File: NOR2D4.cdl.pex
* Created: Mon Dec 22 21:20:19 2025
* Program "Calibre xRC"
* Version "v2023.1_18.8"
* Nominal Temperature: 25C
* Circuit Temperature: 25C
* 
.subckt PM_NOR2D4%VSS 1 21 22 25 26 27 28 46 47 50 57 58 59
r12 61 66 0.316286
r13 54 66 1
r14 52 66 1
r15 52 54 0.15269
r16 49 66 1
r17 49 52 0.15269
r18 49 50 0.251086
r19 47 50 1.19215
r20 46 47 1.19215
r21 46 57 1.19215
r22 39 59 3.70556
r23 37 59 6.92783
r24 34 58 5.08901
r25 27 28 3.9885
r26 27 59 3.9885
r27 26 59 3.98871
r28 25 26 3.9885
r29 22 59 6.52675
r30 22 25 3.9885
r31 21 39 3.8399
r32 21 28 3.98871
r33 20 37 11.6568
r34 19 20 11.6568
r35 17 18 4.87757
r36 15 61 1
r37 15 17 4.87757
r38 13 61 1
r39 13 15 2.6107
r40 11 61 1
r41 11 13 2.6107
r42 11 34 3.26338
r43 5 58 6.52675
r44 5 58 6.52675
r45 4 58 3.26338
r46 4 58 6.52675
r47 1 19 11.6568
r48 1 18 4.87783
.ends

.subckt PM_NOR2D4%net11 4 5 10 11 16 17 22 23 28 29 34 35 40 41 46 47 63 77 78
+ 87 88 89 90 91 92 93 94 95 96
r119 107 109 0.2952
r120 105 107 0.2952
r121 103 105 0.738
r122 101 103 0.2952
r123 98 101 0.2952
r124 85 109 1
r125 78 87 1.17512
r126 77 78 1.17512
r127 76 77 1.17512
r128 75 76 1.17512
r129 72 75 1.17512
r130 71 85 0.156299
r131 70 72 0.252919
r132 70 71 2.03688
r133 69 107 1
r134 66 105 1
r135 66 69 0.2952
r136 64 85 0.104199
r137 64 69 0.2214
r138 63 103 1
r139 61 101 1
r140 61 63 2.80374
r141 59 98 1
r142 59 61 2.80374
r143 57 59 5.60747
r144 56 57 11.2149
r145 55 56 11.2149
r146 54 55 11.2149
r147 54 88 10.514
r148 51 88 0.700934
r149 50 51 11.2149
r150 49 50 11.2149
r151 47 96 20.306
r152 46 47 20.3052
r153 43 63 8.02037
r154 43 46 20.3052
r155 41 95 20.306
r156 40 41 20.3052
r157 37 57 8.02037
r158 37 40 20.3052
r159 35 94 20.306
r160 34 35 20.3052
r161 31 56 8.02037
r162 31 34 20.3052
r163 29 93 20.306
r164 28 29 20.3052
r165 25 55 8.02037
r166 25 28 20.3052
r167 23 92 20.306
r168 22 23 20.3052
r169 19 54 8.02037
r170 19 22 20.3052
r171 17 91 20.306
r172 16 17 20.3052
r173 13 51 8.02037
r174 13 16 20.3052
r175 11 90 20.306
r176 10 11 20.3052
r177 7 50 8.02037
r178 7 10 20.3052
r179 5 89 20.306
r180 4 5 20.3052
r181 1 49 8.02037
r182 1 4 20.3052
.ends

.subckt PM_NOR2D4%net10 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 71 76 80 81 85 90 94 95 99 104 108 109 113 118 122 123 134 135 136 137 138
+ 139 140 141 142 143 144 145 146 147 148 149 150 151
r214 123 151 20.306
r215 122 123 20.3052
r216 119 133 6.97267
r217 119 122 20.3052
r218 117 118 20.3052
r219 117 150 20.3052
r220 113 133 6.97267
r221 113 118 20.306
r222 112 132 4.89506
r223 111 133 0.353334
r224 111 112 16.3169
r225 109 149 20.306
r226 108 109 20.3052
r227 105 132 8.70233
r228 105 108 20.3052
r229 103 104 20.3052
r230 103 148 20.3052
r231 99 132 8.70233
r232 99 104 20.306
r233 98 131 4.89506
r234 97 132 4.89506
r235 97 98 16.3169
r236 95 147 20.306
r237 94 95 20.3052
r238 91 131 8.70233
r239 91 94 20.3052
r240 89 90 20.3052
r241 89 146 20.3052
r242 85 131 8.70233
r243 85 90 20.306
r244 84 130 4.89506
r245 83 131 4.89506
r246 83 84 16.3169
r247 81 145 20.306
r248 80 81 20.3052
r249 77 130 8.70233
r250 77 80 20.3052
r251 75 76 20.3052
r252 75 144 20.3052
r253 71 130 8.70233
r254 71 76 20.306
r255 70 129 4.89506
r256 69 130 4.89506
r257 69 70 16.3169
r258 67 143 20.306
r259 66 67 20.3052
r260 63 129 8.70233
r261 63 66 20.3052
r262 61 62 20.3052
r263 61 142 20.3052
r264 57 129 8.70233
r265 57 62 20.306
r266 56 128 4.89506
r267 55 129 4.89506
r268 55 56 16.3169
r269 53 141 20.306
r270 52 53 20.3052
r271 49 128 8.70233
r272 49 52 20.3052
r273 47 48 20.3052
r274 47 140 20.3052
r275 43 128 8.70233
r276 43 48 20.306
r277 42 127 4.89506
r278 41 128 4.89506
r279 41 42 16.3169
r280 39 139 20.306
r281 38 39 20.3052
r282 35 127 8.70233
r283 35 38 20.3052
r284 33 34 20.3052
r285 33 138 20.3052
r286 29 127 8.70233
r287 29 34 20.306
r288 28 126 4.89506
r289 27 127 4.89506
r290 27 28 16.3169
r291 25 137 20.306
r292 24 25 20.3052
r293 21 126 8.70233
r294 21 24 20.3052
r295 19 20 20.3052
r296 19 136 20.3052
r297 15 126 8.70233
r298 15 20 20.306
r299 14 125 0.353334
r300 13 126 4.89506
r301 13 14 16.3169
r302 11 135 20.306
r303 10 11 20.3052
r304 7 125 6.97267
r305 7 10 20.3052
r306 5 6 20.3052
r307 5 134 20.3052
r308 1 125 6.97267
r309 1 6 20.306
.ends

.subckt PM_NOR2D4%OUT 1 5 6 11 12 17 18 23 24 29 30 35 36 41 42 47 48 59 61 62
+ 63 64 65 66 67 68 69
r107 59 60 7.86954
r108 58 59 7.86954
r109 57 58 7.86954
r110 53 63 5.90215
r111 52 53 7.86954
r112 51 52 7.86954
r113 50 51 7.86954
r114 48 69 20.306
r115 47 48 20.3052
r116 44 60 10.4807
r117 44 47 20.3052
r118 42 68 20.306
r119 41 42 20.3052
r120 38 59 10.4807
r121 38 41 20.3052
r122 36 67 20.306
r123 35 36 20.3052
r124 32 58 10.4807
r125 32 35 20.3052
r126 30 66 20.306
r127 29 30 20.3052
r128 26 57 10.4807
r129 26 29 20.3052
r130 24 65 20.306
r131 23 24 20.3052
r132 20 53 10.4807
r133 20 23 20.3052
r134 18 64 20.306
r135 17 18 20.3052
r136 14 52 10.4807
r137 14 17 20.3052
r138 12 62 20.306
r139 11 12 20.3052
r140 8 51 10.4807
r141 8 11 20.3052
r142 6 61 20.306
r143 5 6 20.3052
r144 2 50 10.4807
r145 2 5 20.3052
r146 1 57 1.95755
r147 1 63 0.00983692
.ends

.subckt PM_NOR2D4%VDD 1 6 11 14 19 22 27 30 35 38 43 46 51 54 59 62 67 71 76 79
+ 84 87 92 95 100 103 108 111 116 119 124 127 132 151 152 153 154 155 156 157
+ 158 159 160 161 162 163 164 165 166
r200 131 132 20.3052
r201 131 166 20.3052
r202 127 150 1.43649
r203 127 132 20.306
r204 126 149 5.52744
r205 125 150 5.52744
r206 125 126 21.7558
r207 123 124 20.3052
r208 123 165 20.3052
r209 119 149 1.43649
r210 119 124 20.306
r211 118 148 5.52744
r212 117 149 5.52744
r213 117 118 21.7558
r214 115 116 20.3052
r215 115 164 20.3052
r216 111 148 1.43649
r217 111 116 20.306
r218 110 147 5.52744
r219 109 148 5.52744
r220 109 110 21.7558
r221 107 108 20.3052
r222 107 163 20.3052
r223 103 147 1.43649
r224 103 108 20.306
r225 102 146 5.52744
r226 101 147 5.52744
r227 101 102 21.7558
r228 99 100 20.3052
r229 99 162 20.3052
r230 95 146 1.43649
r231 95 100 20.306
r232 94 145 5.52744
r233 93 146 5.52744
r234 93 94 21.7558
r235 91 92 20.3052
r236 91 161 20.3052
r237 87 145 1.43649
r238 87 92 20.306
r239 86 144 5.52744
r240 85 145 5.52744
r241 85 86 21.7558
r242 83 84 20.3052
r243 83 160 20.3052
r244 79 144 1.43649
r245 79 84 20.306
r246 78 143 5.52744
r247 77 144 5.52744
r248 77 78 21.7558
r249 75 76 20.3052
r250 75 159 20.3052
r251 71 143 1.43649
r252 71 76 20.306
r253 69 142 5.52744
r254 68 143 5.52744
r255 66 67 20.3052
r256 66 158 20.3052
r257 62 142 1.43649
r258 62 67 20.306
r259 61 141 5.52744
r260 60 142 5.52744
r261 60 61 21.7558
r262 58 59 20.3052
r263 58 157 20.3052
r264 54 141 1.43649
r265 54 59 20.306
r266 53 140 5.52744
r267 52 141 5.52744
r268 52 53 21.7558
r269 50 51 20.3052
r270 50 156 20.3052
r271 46 140 1.43649
r272 46 51 20.306
r273 45 139 5.52744
r274 44 140 5.52744
r275 44 45 21.7558
r276 42 43 20.3052
r277 42 155 20.3052
r278 38 139 1.43649
r279 38 43 20.306
r280 37 138 5.52744
r281 36 139 5.52744
r282 36 37 21.7558
r283 34 35 20.3052
r284 34 154 20.3052
r285 30 138 1.43649
r286 30 35 20.306
r287 29 137 5.52744
r288 28 138 5.52744
r289 28 29 21.7558
r290 26 27 20.3052
r291 26 153 20.3052
r292 22 137 1.43649
r293 22 27 20.306
r294 21 136 5.52744
r295 20 137 5.52744
r296 20 21 21.7558
r297 18 19 20.3052
r298 18 152 20.3052
r299 14 136 1.43649
r300 14 19 20.306
r301 13 135 5.52744
r302 12 136 5.52744
r303 12 13 21.7558
r304 10 11 20.3052
r305 10 151 20.3052
r306 6 135 1.43649
r307 6 11 20.306
r308 1 68 27.891
r309 1 69 24.323
.ends

.subckt PM_NOR2D4%net12 1 6 10 11 15 20 24 25 29 34 38 39 43 48 52 53 57 62 66
+ 67 71 76 80 81 85 90 94 95 99 104 108 109 113 118 122 123 134 135 136 137 138
+ 139 140 141 142 143 144 145 146 147 148 149 150 151
r212 123 151 20.306
r213 122 123 20.3052
r214 119 133 6.97267
r215 119 122 20.3052
r216 117 118 20.3052
r217 117 150 20.3052
r218 113 133 6.97267
r219 113 118 20.306
r220 112 132 4.89506
r221 111 133 0.353334
r222 111 112 16.3169
r223 109 149 20.306
r224 108 109 20.3052
r225 105 132 8.70233
r226 105 108 20.3052
r227 103 104 20.3052
r228 103 148 20.3052
r229 99 132 8.70233
r230 99 104 20.306
r231 98 131 4.89506
r232 97 132 4.89506
r233 97 98 16.3169
r234 95 147 20.306
r235 94 95 20.3052
r236 91 131 8.70233
r237 91 94 20.3052
r238 89 90 20.3052
r239 89 146 20.3052
r240 85 131 8.70233
r241 85 90 20.306
r242 84 130 4.89506
r243 83 131 4.89506
r244 83 84 16.3169
r245 81 145 20.306
r246 80 81 20.3052
r247 77 130 8.70233
r248 77 80 20.3052
r249 75 76 20.3052
r250 75 144 20.3052
r251 71 130 8.70233
r252 71 76 20.306
r253 70 129 4.89506
r254 69 130 4.89506
r255 69 70 16.3169
r256 67 143 20.306
r257 66 67 20.3052
r258 63 129 8.70233
r259 63 66 20.3052
r260 61 62 20.3052
r261 61 142 20.3052
r262 57 129 8.70233
r263 57 62 20.306
r264 56 128 4.89506
r265 55 129 4.89506
r266 55 56 16.3169
r267 53 141 20.306
r268 52 53 20.3052
r269 49 128 8.70233
r270 49 52 20.3052
r271 47 48 20.3052
r272 47 140 20.3052
r273 43 128 8.70233
r274 43 48 20.306
r275 42 127 4.89506
r276 41 128 4.89506
r277 41 42 16.3169
r278 39 139 20.306
r279 38 39 20.3052
r280 35 127 8.70233
r281 35 38 20.3052
r282 33 34 20.3052
r283 33 138 20.3052
r284 29 127 8.70233
r285 29 34 20.306
r286 28 126 4.89506
r287 27 127 4.89506
r288 27 28 16.3169
r289 25 137 20.306
r290 24 25 20.3052
r291 21 126 8.70233
r292 21 24 20.3052
r293 19 20 20.3052
r294 19 136 20.3052
r295 15 126 8.70233
r296 15 20 20.306
r297 14 125 0.353334
r298 13 126 4.89506
r299 13 14 16.3169
r300 11 135 20.306
r301 10 11 20.3052
r302 7 125 6.97267
r303 7 10 20.3052
r304 5 6 20.3052
r305 5 134 20.3052
r306 1 125 6.97267
r307 1 6 20.306
.ends

.subckt PM_NOR2D4%IN2 15 18 21 22 24 25 26 29 30 32 38 40 46 48 50 53 54 56 57
+ 58 61 62 64 70 72 78 80 82 85 86 88 89 90 93 94 96 102 104 110 112 114 117 118
+ 120 121 122 125 126 128 134 136 142 144 147 148 150 153 154 156 157 158 161
+ 162 164 170 172 178 180 182 185 186 188 189 190 193 194 196 202 204 210 212
+ 214 217 218 220 221 222 225 226 228 234 236 242 244 246 249 250 252 253 254
+ 257 258 260 266 268 270 274 276 375 376 377 378 379 380 381 382 383 384 385
+ 386 387 388 389 390 391 392 393 394 395 396 397 398 399 400 401 402 403 404
+ 405 406 407
r421 415 417 0.2952
r422 409 412 0.2952
r423 407 415 0.16974
r424 407 412 0.12546
r425 275 276 0.62445
r426 275 406 0.62445
r427 274 406 0.624484
r428 273 274 0.62445
r429 270 276 0.624484
r430 269 273 0.62445
r431 267 268 0.62445
r432 267 405 0.62445
r433 266 405 0.624484
r434 265 266 0.62445
r435 262 270 0.8856
r436 262 268 0.624484
r437 261 269 0.8856
r438 261 265 0.62445
r439 259 260 0.62445
r440 259 404 0.62445
r441 258 404 0.624484
r442 257 258 0.62445
r443 254 262 0.8856
r444 254 260 0.624484
r445 253 261 0.8856
r446 253 257 0.62445
r447 251 252 0.62445
r448 251 403 0.62445
r449 250 403 0.624484
r450 249 250 0.62445
r451 246 254 0.8856
r452 246 252 0.624484
r453 245 253 0.8856
r454 245 249 0.62445
r455 243 244 0.62445
r456 243 402 0.62445
r457 242 402 0.624484
r458 241 242 0.62445
r459 238 246 0.8856
r460 238 244 0.624484
r461 237 245 0.8856
r462 237 241 0.62445
r463 235 236 0.62445
r464 235 401 0.62445
r465 234 401 0.624484
r466 233 234 0.62445
r467 230 238 0.8856
r468 230 236 0.624484
r469 229 237 0.8856
r470 229 233 0.62445
r471 227 228 0.62445
r472 227 400 0.62445
r473 226 400 0.624484
r474 225 226 0.62445
r475 222 230 0.8856
r476 222 228 0.624484
r477 221 229 0.8856
r478 221 225 0.62445
r479 219 220 0.62445
r480 219 399 0.62445
r481 218 399 0.624484
r482 217 218 0.62445
r483 214 222 0.8856
r484 214 220 0.624484
r485 213 221 0.8856
r486 213 217 0.62445
r487 211 212 0.62445
r488 211 398 0.62445
r489 210 398 0.624484
r490 209 210 0.62445
r491 206 214 0.8856
r492 206 212 0.624484
r493 205 213 0.8856
r494 205 209 0.62445
r495 203 204 0.62445
r496 203 397 0.62445
r497 202 397 0.624484
r498 201 202 0.62445
r499 198 206 0.8856
r500 198 204 0.624484
r501 197 205 0.8856
r502 197 201 0.62445
r503 195 196 0.62445
r504 195 396 0.62445
r505 194 396 0.624484
r506 193 194 0.62445
r507 190 198 0.8856
r508 190 196 0.624484
r509 189 197 0.8856
r510 189 193 0.62445
r511 187 188 0.62445
r512 187 395 0.62445
r513 186 395 0.624484
r514 185 186 0.62445
r515 182 190 0.8856
r516 182 188 0.624484
r517 181 189 0.8856
r518 181 185 0.62445
r519 179 180 0.62445
r520 179 394 0.62445
r521 178 394 0.624484
r522 177 178 0.62445
r523 174 182 0.8856
r524 174 180 0.624484
r525 173 181 0.8856
r526 173 177 0.62445
r527 171 172 0.62445
r528 171 393 0.62445
r529 170 393 0.624484
r530 169 170 0.62445
r531 166 174 0.8856
r532 166 172 0.624484
r533 165 173 0.8856
r534 165 169 0.62445
r535 163 164 0.62445
r536 163 392 0.62445
r537 162 392 0.624484
r538 161 162 0.62445
r539 158 166 0.8856
r540 158 164 0.624484
r541 157 165 0.8856
r542 157 161 0.62445
r543 155 156 0.62445
r544 155 391 0.62445
r545 154 391 0.624484
r546 153 154 0.62445
r547 150 158 0.8856
r548 150 156 0.624484
r549 149 157 0.8856
r550 149 153 0.62445
r551 147 150 0.28782
r552 147 148 1.85976
r553 145 149 0.28782
r554 145 146 1.85976
r555 143 144 0.62445
r556 143 390 0.62445
r557 142 390 0.624484
r558 141 142 0.62445
r559 138 148 0.28782
r560 138 144 0.624484
r561 137 146 0.28782
r562 137 141 0.62445
r563 135 136 0.62445
r564 135 389 0.62445
r565 134 389 0.624484
r566 133 134 0.62445
r567 130 138 0.8856
r568 130 136 0.624484
r569 129 137 0.8856
r570 129 133 0.62445
r571 127 128 0.62445
r572 127 388 0.62445
r573 126 388 0.624484
r574 125 126 0.62445
r575 122 130 0.8856
r576 122 128 0.624484
r577 121 129 0.8856
r578 121 125 0.62445
r579 119 120 0.62445
r580 119 387 0.62445
r581 118 387 0.624484
r582 117 118 0.62445
r583 114 122 0.8856
r584 114 120 0.624484
r585 113 121 0.8856
r586 113 117 0.62445
r587 111 112 0.62445
r588 111 386 0.62445
r589 110 386 0.624484
r590 109 110 0.62445
r591 106 114 0.8856
r592 106 112 0.624484
r593 105 113 0.8856
r594 105 109 0.62445
r595 103 104 0.62445
r596 103 385 0.62445
r597 102 385 0.624484
r598 101 102 0.62445
r599 98 106 0.8856
r600 98 104 0.624484
r601 97 105 0.8856
r602 97 101 0.62445
r603 95 96 0.62445
r604 95 384 0.62445
r605 94 384 0.624484
r606 93 94 0.62445
r607 90 98 0.8856
r608 90 96 0.624484
r609 89 97 0.8856
r610 89 93 0.62445
r611 87 88 0.62445
r612 87 383 0.62445
r613 86 383 0.624484
r614 85 86 0.62445
r615 82 90 0.8856
r616 82 88 0.624484
r617 81 89 0.8856
r618 81 85 0.62445
r619 79 80 0.62445
r620 79 382 0.62445
r621 78 382 0.624484
r622 77 78 0.62445
r623 74 82 0.8856
r624 74 80 0.624484
r625 73 81 0.8856
r626 73 77 0.62445
r627 71 72 0.62445
r628 71 381 0.62445
r629 70 381 0.624484
r630 69 70 0.62445
r631 66 74 0.8856
r632 66 72 0.624484
r633 65 73 0.8856
r634 65 69 0.62445
r635 63 64 0.62445
r636 63 380 0.62445
r637 62 380 0.624484
r638 61 62 0.62445
r639 58 66 0.8856
r640 58 64 0.624484
r641 57 65 0.8856
r642 57 61 0.62445
r643 55 56 0.62445
r644 55 379 0.62445
r645 54 379 0.624484
r646 53 54 0.62445
r647 50 58 0.8856
r648 50 56 0.624484
r649 49 57 0.8856
r650 49 53 0.62445
r651 47 48 0.62445
r652 47 378 0.62445
r653 46 378 0.624484
r654 45 46 0.62445
r655 42 50 0.8856
r656 42 48 0.624484
r657 41 49 0.8856
r658 41 45 0.62445
r659 39 40 0.62445
r660 39 377 0.62445
r661 38 377 0.624484
r662 37 38 0.62445
r663 34 42 0.8856
r664 34 40 0.624484
r665 33 41 0.8856
r666 33 37 0.62445
r667 31 32 0.62445
r668 31 376 0.62445
r669 30 376 0.624484
r670 29 30 0.62445
r671 26 34 0.8856
r672 26 32 0.624484
r673 25 33 0.8856
r674 25 29 0.62445
r675 23 24 0.62445
r676 23 375 0.62445
r677 22 375 0.624484
r678 21 22 0.62445
r679 18 26 0.8856
r680 18 24 0.624484
r681 17 25 0.8856
r682 17 21 0.62445
r683 15 18 0.28782
r684 15 16 0.92988
r685 13 17 0.28782
r686 13 14 0.92988
r687 11 12 0.75276
r688 10 417 1
r689 10 11 0.75276
r690 8 415 1
r691 8 10 0.2952
r692 6 412 1
r693 6 8 0.2952
r694 4 409 1
r695 4 6 0.2952
r696 2 16 0.260498
r697 2 12 0.75276
r698 1 14 0.260498
r699 1 4 0.10332
.ends

.subckt PM_NOR2D4%IN1 13 18 21 22 24 25 26 29 30 32 38 40 46 48 50 53 54 56 57
+ 58 61 62 64 70 72 78 80 82 85 86 88 89 90 93 94 96 102 104 110 112 114 117 118
+ 120 121 122 125 126 128 134 136 142 144 145 146 150 153 154 156 157 158 161
+ 162 164 170 172 178 180 182 185 186 188 189 190 193 194 196 202 204 210 212
+ 214 217 218 220 221 222 225 226 228 234 236 242 244 246 249 250 252 253 254
+ 257 258 260 266 268 269 274 276 375 376 377 378 379 380 381 382 383 384 385
+ 386 387 388 389 390 391 392 393 394 395 396 397 398 399 400 401 402 403 404
+ 405 406 407
r413 415 417 0.2952
r414 409 412 0.2952
r415 407 415 0.17712
r416 407 412 0.11808
r417 275 276 0.62445
r418 275 406 0.62445
r419 274 406 0.624484
r420 273 274 0.62445
r421 270 276 0.624484
r422 269 273 0.62445
r423 267 268 0.62445
r424 267 405 0.62445
r425 266 405 0.624484
r426 265 266 0.62445
r427 262 270 0.8856
r428 262 268 0.624484
r429 261 269 0.8856
r430 261 265 0.62445
r431 259 260 0.62445
r432 259 404 0.62445
r433 258 404 0.624484
r434 257 258 0.62445
r435 254 262 0.8856
r436 254 260 0.624484
r437 253 261 0.8856
r438 253 257 0.62445
r439 251 252 0.62445
r440 251 403 0.62445
r441 250 403 0.624484
r442 249 250 0.62445
r443 246 254 0.8856
r444 246 252 0.624484
r445 245 253 0.8856
r446 245 249 0.62445
r447 243 244 0.62445
r448 243 402 0.62445
r449 242 402 0.624484
r450 241 242 0.62445
r451 238 246 0.8856
r452 238 244 0.624484
r453 237 245 0.8856
r454 237 241 0.62445
r455 235 236 0.62445
r456 235 401 0.62445
r457 234 401 0.624484
r458 233 234 0.62445
r459 230 238 0.8856
r460 230 236 0.624484
r461 229 237 0.8856
r462 229 233 0.62445
r463 227 228 0.62445
r464 227 400 0.62445
r465 226 400 0.624484
r466 225 226 0.62445
r467 222 230 0.8856
r468 222 228 0.624484
r469 221 229 0.8856
r470 221 225 0.62445
r471 219 220 0.62445
r472 219 399 0.62445
r473 218 399 0.624484
r474 217 218 0.62445
r475 214 222 0.8856
r476 214 220 0.624484
r477 213 221 0.8856
r478 213 217 0.62445
r479 211 212 0.62445
r480 211 398 0.62445
r481 210 398 0.624484
r482 209 210 0.62445
r483 206 214 0.8856
r484 206 212 0.624484
r485 205 213 0.8856
r486 205 209 0.62445
r487 203 204 0.62445
r488 203 397 0.62445
r489 202 397 0.624484
r490 201 202 0.62445
r491 198 206 0.8856
r492 198 204 0.624484
r493 197 205 0.8856
r494 197 201 0.62445
r495 195 196 0.62445
r496 195 396 0.62445
r497 194 396 0.624484
r498 193 194 0.62445
r499 190 198 0.8856
r500 190 196 0.624484
r501 189 197 0.8856
r502 189 193 0.62445
r503 187 188 0.62445
r504 187 395 0.62445
r505 186 395 0.624484
r506 185 186 0.62445
r507 182 190 0.8856
r508 182 188 0.624484
r509 181 189 0.8856
r510 181 185 0.62445
r511 179 180 0.62445
r512 179 394 0.62445
r513 178 394 0.624484
r514 177 178 0.62445
r515 174 182 0.8856
r516 174 180 0.624484
r517 173 181 0.8856
r518 173 177 0.62445
r519 171 172 0.62445
r520 171 393 0.62445
r521 170 393 0.624484
r522 169 170 0.62445
r523 166 174 0.8856
r524 166 172 0.624484
r525 165 173 0.8856
r526 165 169 0.62445
r527 163 164 0.62445
r528 163 392 0.62445
r529 162 392 0.624484
r530 161 162 0.62445
r531 158 166 0.8856
r532 158 164 0.624484
r533 157 165 0.8856
r534 157 161 0.62445
r535 155 156 0.62445
r536 155 391 0.62445
r537 154 391 0.624484
r538 153 154 0.62445
r539 150 158 0.8856
r540 150 156 0.624484
r541 149 157 0.8856
r542 149 153 0.62445
r543 147 150 0.28782
r544 147 148 1.85976
r545 145 149 0.28782
r546 145 146 1.85976
r547 143 144 0.62445
r548 143 390 0.62445
r549 142 390 0.624484
r550 141 142 0.62445
r551 138 148 0.28782
r552 138 144 0.624484
r553 137 146 0.28782
r554 137 141 0.62445
r555 135 136 0.62445
r556 135 389 0.62445
r557 134 389 0.624484
r558 133 134 0.62445
r559 130 138 0.8856
r560 130 136 0.624484
r561 129 137 0.8856
r562 129 133 0.62445
r563 127 128 0.62445
r564 127 388 0.62445
r565 126 388 0.624484
r566 125 126 0.62445
r567 122 130 0.8856
r568 122 128 0.624484
r569 121 129 0.8856
r570 121 125 0.62445
r571 119 120 0.62445
r572 119 387 0.62445
r573 118 387 0.624484
r574 117 118 0.62445
r575 114 122 0.8856
r576 114 120 0.624484
r577 113 121 0.8856
r578 113 117 0.62445
r579 111 112 0.62445
r580 111 386 0.62445
r581 110 386 0.624484
r582 109 110 0.62445
r583 106 114 0.8856
r584 106 112 0.624484
r585 105 113 0.8856
r586 105 109 0.62445
r587 103 104 0.62445
r588 103 385 0.62445
r589 102 385 0.624484
r590 101 102 0.62445
r591 98 106 0.8856
r592 98 104 0.624484
r593 97 105 0.8856
r594 97 101 0.62445
r595 95 96 0.62445
r596 95 384 0.62445
r597 94 384 0.624484
r598 93 94 0.62445
r599 90 98 0.8856
r600 90 96 0.624484
r601 89 97 0.8856
r602 89 93 0.62445
r603 87 88 0.62445
r604 87 383 0.62445
r605 86 383 0.624484
r606 85 86 0.62445
r607 82 90 0.8856
r608 82 88 0.624484
r609 81 89 0.8856
r610 81 85 0.62445
r611 79 80 0.62445
r612 79 382 0.62445
r613 78 382 0.624484
r614 77 78 0.62445
r615 74 82 0.8856
r616 74 80 0.624484
r617 73 81 0.8856
r618 73 77 0.62445
r619 71 72 0.62445
r620 71 381 0.62445
r621 70 381 0.624484
r622 69 70 0.62445
r623 66 74 0.8856
r624 66 72 0.624484
r625 65 73 0.8856
r626 65 69 0.62445
r627 63 64 0.62445
r628 63 380 0.62445
r629 62 380 0.624484
r630 61 62 0.62445
r631 58 66 0.8856
r632 58 64 0.624484
r633 57 65 0.8856
r634 57 61 0.62445
r635 55 56 0.62445
r636 55 379 0.62445
r637 54 379 0.624484
r638 53 54 0.62445
r639 50 58 0.8856
r640 50 56 0.624484
r641 49 57 0.8856
r642 49 53 0.62445
r643 47 48 0.62445
r644 47 378 0.62445
r645 46 378 0.624484
r646 45 46 0.62445
r647 42 50 0.8856
r648 42 48 0.624484
r649 41 49 0.8856
r650 41 45 0.62445
r651 39 40 0.62445
r652 39 377 0.62445
r653 38 377 0.624484
r654 37 38 0.62445
r655 34 42 0.8856
r656 34 40 0.624484
r657 33 41 0.8856
r658 33 37 0.62445
r659 31 32 0.62445
r660 31 376 0.62445
r661 30 376 0.624484
r662 29 30 0.62445
r663 26 34 0.8856
r664 26 32 0.624484
r665 25 33 0.8856
r666 25 29 0.62445
r667 23 24 0.62445
r668 23 375 0.62445
r669 22 375 0.624484
r670 21 22 0.62445
r671 18 26 0.8856
r672 18 24 0.624484
r673 17 25 0.8856
r674 17 21 0.62445
r675 15 18 0.28782
r676 15 16 0.92988
r677 13 17 0.28782
r678 13 14 0.92988
r679 11 12 0.75276
r680 10 417 1
r681 10 11 0.75276
r682 8 415 1
r683 8 10 0.2952
r684 6 412 1
r685 6 8 0.2952
r686 4 409 1
r687 4 6 0.2952
r688 2 16 0.260498
r689 2 12 0.75276
r690 1 14 0.260498
r691 1 4 0.10332
.ends

